US04931463
N-formyl-L-alanine (S)-1-[(2S,3S)-3-hexyl-4-oxo-2-oxetanyl)-4-pentenyl ester;
by esterifying (S)-3-hexyl-(S)-4-[(R,Z)-2-hydroxy-5-tridecenyl)-2-oxetanone with N-formyl-L-leucine there was obtained

reactant | (S)-3-hexyl-(S)-4-[(R,Z)-2-hydroxy-5-tridecenyl)-2-oxetanone | C(CCCCC)[C@@H]1C(O[C@H]1C[C@@H](CC\C=C/CCCCCCC)O)=O | C22H40O3
reactant | N-formyl-L-leucine | C(=O)N[C@@H](CC(C)C)C(=O)O | C7H13NO3
product | N-formyl-L-alanine (S)-1-[(2S,3S)-3-hexyl-4-oxo-2-oxetanyl)-4-pentenyl ester | C(CCCCC)[C@H]1[C@H](OC1=O)[C@H](CCC=C)OC([C@@H](NC=O)C)=O | C18H29NO5
